*****************************************************************
* NXP PSMN7R5-30MLD
*
* Polarity N-Channel
* Ratings 30V/7.600000E-003OHMS/57.5A
*
* Date Created Mon Jan 20 03:30:59 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN7R5-30MLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 0.981801357717194
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 0.791681348704628
RLS1 8 7 0.00024

RDS 7 4 24000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00514535698565262 TC=0.00498008560929444,1.23988389795208E-06
RBD 9 4 0.00396725286882964 TC=0.00498008560929444,1.23988389795208E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 6.36e-10
RG 1 2 0.24744

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -3	565.28
+ -2	463.836
+ -1	320.856
+ -0.5	249.363
+ -0.2	214.862
+ -0.1	214.059
+ 0	193.06274
+ 0.1	167.55596
+ 0.2	167.3174
+ 0.5	146.03528
+ 1	123.56132
+ 2	99.44275
+ 3	85.69137
+ 4	75.66139
+ 5	67.61959
+ 6	61.79292
+ 8	55.33682
+ 10	52.52428
+ 12	51.13676
+ 15	49.99127



.MODEL MINT NMOS(Vto=2.2 Kp=1.574654e+002 Nfs=500000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=2.5451895734465e-13
+ N=1 M=0.25 VJ=0.6 Fc=0.5 Cjo=1.19174172e-09 Tt=1.016e-08)

.ENDS

